US06737409B2
To a stirred solution of the crude 2-(2-carboxy-1-methylsulfanyl-propyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (223 mg) obtained above in CH2Cl2 (3 ml) was added phenethylamine(0.18 ml, 1.41 mmol), WSCI monohydrochloride(203 mg, 1.06 mmol), HOBt monohydrate(162 mg, 1.06 mmol) and diisopropylethylamine(0.37 ml, 2.12 mmol) at room temperature. After being stirred at room temperature for 4.5 hr, the mixture was quenched with 1N HCl (20 ml), extracted with AcOEt, dried (MgSO4) and concentrated in vacuo to give a crude oil, which was purified by flash column chromatography (hexane:AcOEt=3:1) to give 2-(1-methylsulfanyl-2-phenethylcarbamoyl-propyl)-pyrrolidine-1-carboxylic acid tert-butyl ester as an oil(123 mg, 43%).

reactant | 2-(2-carboxy-1-methylsulfanyl-propyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 223 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C(C(C)C(=O)O)SC | C14H25NO4S
reactant | phenethylamine | 1.41 mmol, 0.18 ml | C(CC1=CC=CC=C1)N | C8H11N
reactant | monohydrochloride | 1.06 mmol, 203 mg | Cl | ClH
reactant | HOBt monohydrate | 1.06 mmol, 162 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | diisopropylethylamine | 2.12 mmol, 0.37 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | 2-(1-methylsulfanyl-2-phenethylcarbamoyl-propyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 123 mg, 43% | C(C)(C)(C)OC(=O)N1C(CCC1)C(C(C)C(NCCC1=CC=CC=C1)=O)SC | C22H34N2O3S
